Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Antabuse / Iodinated Contrast- Oral and IV Dye
 
Attending: ___.
 
Chief Complaint:
 Propagation of portal vein thrombus
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ with PMHx cirrhosis (due to NASH and
possibly alcohol, complicated by hepatic encephalopathy and
variceal bleed circa ___, HTN, DM, and short-term memory loss
(since ___ who presents from his clinic after an outpatient 
MRI
liver demonstrated extension of his portal vein thrombus that 
had
been noted in ___.

Pt was in his usual state of health when he went to his
appointment with his primary hepatologist (Dr. ___ on
___.  He had an MRI liver done as an outpatient for
surveillance of his known nonocclusive portal vein thrombus
(noted by CT A/P at least since ___.  The MRI liver on
___ showed progression of this thrombus and extension into
more distal vessels.  Due to concern for further propagation of
this clot, Pt was referred to the ED for immediate
anticoagulation and observation.  

In the ED initial vitals:  T 98.8 BP 154/82 HR 74 RR 18 O2 98% 
on
RA
- Exam notable for:  Not encephalopathic, A&Ox4, well appearing,
distended abdomen
- Imaging notable for:  
MRI LIVER W/ AND W/O CONTRAST (___):
1. Nonocclusive thrombus within the main portal vein, anterior
and posterior 
branches of the right portal vein, portal confluence, and
proximal SMV, new 
since ___. 
2. Cirrhosis with compensatory hypertrophy of the caudate lobe
and trace 
perihepatic ascites. 
3. Focal area of heterogeneity in the left hepatic lobe without
arterial 
enhancement. 
4. Splenomegaly. 
- Labs notable for:  INR 1.2, Plt 94, Hb 14.1, ALP 134.
- Patient was given:  IV heparin
- Vitals prior to transfer:  T 98 BP 105/60 HR 61 RR 18 O2 99% 
on
RA

On arrival, Pt endorses the above history.  He has felt 
generally
well prior to the beginning of this procedure.  Besides some
fatigue over the last week, he has not had any complaints 
besides
longstanding headaches (from a car accident in ___ and 
diabetic
neuropathy in his legs and fingers, which are unchanged from
prior.  Specifically he has not had fevers, chills, CP, SOB,
abdominal pain, N/V/D, dysuria, hematuria, melena, hematochezia,
focal weakness, and episodes of LOC.

ROS:  As per HPI.  Otherwise a 10-point ROS is negative in
detail.
 
Past Medical History:
- Cirrhosis (due to NASH and alcohol), complicated by bleeding
esophageal varices (s/p banding in ___, with obliteration based
on most recent EGD in ___
- Hypertension
- Type 2 diabetes mellitus, on orals, complicated by diabetic
neuropathy
- Colonic adenomas
- Short-term memory loss (which Pt attributes to a prior
large-volume

 
Social History:
___
Family History:
- Father:  ___ cancer (unclear age of diagnosis,
died at the age of ___)
- Sister:  Multiple sclerosis
- Brother:  Some unspecified developmental delay
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS:  T 97.9 BP 130/79 HR 62 RR 18 O2 96% on RA
GENERAL:  Obese Caucasian male sitting up in bed, wearing
glasses, pleasant and cooperative.  Occasionally with word
finding difficulty, which he states is stable for him.
HEENT: Sclerae anicteric.  MMM
CARDIAC:  Borderline bradycardic with regular rhythm, normal
S1/S2, no M/R/G.
PULMONARY:  Lungs CTAB.    
ABDOMEN:  NABS.  Abdomen is obese, soft, nontender, 
nondistended.
No hepatosplenomegaly to percussion.
GENITOURINARY:  No foley
EXTREMITIES:  Warm and well perfused.  No lower extremity edema.
SKIN:  No rashes or lesions.
NEUROLOGIC:  A&O x3.  No asterixis.  Moves all four extremities
purposefully.
PSYCHIATRIC: 

DISCHARGE PHYSICAL EXAM:
VS:  97.9 PO 104 / 62 R Lying 55 18 94 Ra 
GENERAL:  Obese Caucasian male sitting up in bed, wearing
glasses, pleasant and cooperative.  Occasionally with word
finding difficulty, which he states is stable for him.
HEENT: Sclerae anicteric.  MMM
CARDIAC:  RRR, normal S1/S2, no M/R/G.
PULMONARY:  Lungs CTAB.    
ABDOMEN:  NABS.  Abdomen is obese, soft, nontender, 
nondistended.
No hepatosplenomegaly to percussion.
GENITOURINARY:  No foley
EXTREMITIES:  Warm and well perfused.  No lower extremity edema.
SKIN:  No rashes or lesions.
NEUROLOGIC:  A&O x3.  No asterixis.  Moves all four extremities
purposefully. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:00AM BLOOD WBC-7.1 RBC-4.78 Hgb-14.1 Hct-41.9 MCV-88 
MCH-29.5 MCHC-33.7 RDW-14.2 RDWSD-45.6 Plt Ct-94*
___ 08:00AM BLOOD Neuts-74.8* Lymphs-11.8* Monos-9.0 
Eos-3.4 Baso-0.7 Im ___ AbsNeut-5.34 AbsLymp-0.84* 
AbsMono-0.64 AbsEos-0.24 AbsBaso-0.05
___ 08:00AM BLOOD ___ PTT-30.8 ___
___ 08:00AM BLOOD Plt Ct-94*
___ 08:18AM BLOOD Creat-0.8
___ 08:00AM BLOOD Glucose-147* UreaN-10 Creat-0.8 Na-140 
K-4.2 Cl-100 HCO3-25 AnGap-15
___ 08:00AM BLOOD ALT-29 AST-35 AlkPhos-134* TotBili-1.3
___ 08:00AM BLOOD Albumin-4.1

DISCHARGE LABS:
===============
___ 03:13AM BLOOD WBC-4.0 RBC-4.39* Hgb-13.0* Hct-39.0* 
MCV-89 MCH-29.6 MCHC-33.3 RDW-14.2 RDWSD-45.9 Plt Ct-68*
___ 03:13AM BLOOD Plt Ct-68*
___ 03:13AM BLOOD ___ PTT-86.0* ___
___ 03:13AM BLOOD ALT-23 AST-28 LD(LDH)-154 AlkPhos-106 
TotBili-1.0
___ 03:13AM BLOOD Albumin-3.6 Calcium-8.7 Phos-3.8 Mg-1.8

MICRO:
=====
NONE

IMAGING/RESULTS:
================
___: MRI liver with and without contrast
1. Nonocclusive thrombus within the main portal vein, anterior 
and posterior
branches of the right portal vein, portal confluence, and 
proximal SMV, new
since ___.
2. Cirrhosis with compensatory hypertrophy of the caudate lobe 
and trace
perihepatic ascites.
3. Focal area of heterogeneity in the left hepatic lobe without 
arterial
enhancement.
4. Splenomegaly.
 
NOTIFICATION:   The findings were discussed with ___, 
M.D. by ___, M.D. on the telephone on ___ at 2:04 pm, 5 
minutes after
discovery of the findings.
 
Brief Hospital Course:
Mr. ___ is a ___ with a history of cirrhosis (due to NASH and 
possibly alcohol, complicated by hepatic encephalopathy and 
variceal bleed circa ___, hypertension, diabetes mellitus, who 
presents due to propagation and extension of his 
previously-noted portal vein thrombus compared to prior imaging 
from ___.

ACTIVE ISSUES:
# PORTAL VEIN THROMBUS:
Patient with propagation of portal vein thrombus compared to 
prior imaging. Patient asymptomatic besides fatigue and did not 
have any evidence on labs of critical end-organ damage. Given 
extension of this clot, we started the patient on heparin drip 
to warfarin. The patient was given lovenox prior to discharge to 
bridge him prior to therapeutic warfarin levels. His labs did 
not seem to indicate any infection or critical hepatic damage 
(with normal transaminases, alkaline phosphatase mildly elevated 
to 134) or issues with synthetic function (INR 1.2).

# THROMBOCYTOPENIA:
His platelets were at baseline (80-100) on arrival. Dipped 
somewhat to 68 prior to discharge, but Pt had no evidence of 
active bleeding (melena, hematochezia, gum bleeding). Unlikely 
HIT given time course and degree of drop; possibly dilutional. 
He will have follow up labs on ___ to follow this 
thrombocytopenia.

CHRONIC/STABLE ISSUES:
# NASH/ETOH CIRRHOSIS:
Previously complicated by bleeding esophageal varices. Pt has
never had ascites, SBP, or hepatic encephalopathy as best he can
remember. We continued home propranolol and spironolactone. He 
had no asterixis so was not given lactulose.

# T2DM:
He was placed on an insulin sliding scale while in-house

# HTN:
We continued his home propranolol

TRANSITIONAL ISSUES:
===================
[] Please check an INR on ___ and fax results to ___ 
and ___
[] Please check CBC, chem10, LFT's, and ___ weekly 
starting ___. Please fax results to Pt's hepatologist ___ 
___, ___ and Pt's PCP ___, ___ 
telephone ___.
[] Please follow platelets and check to make sure patient is not 
having worsening thrombocytopenia.
[] Starting patient on enoxaparin 120mg SQ BID as bridge to 
warfarin. He will leave on a dose of warfarin 2mg daily; please 
adjust warfarin dose as needed to maintain goal INR ___. Once 
warfarin therapeutic, please d/c enoxaparin.

# CODE: FULL confirmed
# CONTACT: Wife, ___ ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. GlipiZIDE 2.5 mg PO DAILY 
2. Pantoprazole 40 mg PO Q12H 
3. Spironolactone 50 mg PO DAILY 
4. Propranolol LA 120 mg PO DAILY 
5. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 120 mg SC Q12H 
RX *enoxaparin 120 mg/0.8 mL 120 mg subcutaneous every twelve 
(12) hours Disp #*28 Syringe Refills:*0 
2.  Warfarin 2 mg PO DAILY16 
RX *warfarin 2 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  GlipiZIDE 2.5 mg PO DAILY  
4.  Pantoprazole 40 mg PO Q12H  
5.  Propranolol LA 120 mg PO DAILY  
6.  Spironolactone 50 mg PO DAILY  
7.  Thiamine 100 mg PO DAILY  
8.Outpatient Lab Work
I___ 

Please check CBC, chem10, LFT's, and ___ weekly starting 
___.  Please fax results to Pt's hepatologist ___, 
___ and Pt's PCP ___, ___ telephone 
___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Portal vein thrombosis 

SECONDARY DIAGNOSIS:
Thrombocytopenia
Nonalcoholic steatohepatitis cirrhosis
Alcoholic cirrhosis
Type 2 Diabetes Mellitus
Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED?
You were admitted because you had evidence of a blood clot in 
the vessels that supply your liver

WHAT WAS DONE WHILE I WAS HERE?
We started you on a blood thinner

WHAT SHOULD I DO NOW?
You should take your medications as instructed.
You should go to your doctor's appointments as below.
Please have your INR checked on ___ and fax the results to 
your PCP and liver doctors  

We ___ the best. 
-Your ___ Care Team 

 
Followup Instructions:
___